### PR TITLE
fix: definition of halting for Busy Beaver machines and add some API

### PR DESCRIPTION
**Pull request by Paul-Lez**
This PR fixes the definition of `HaltsAfter` for Turing Machines by redefining it in terms of `multiStep`. I've also added some amount of API to sanity check that things are indeed working as intended, and finished the proofs in the test file.

### CODE REVIEW

File: FormalConjectures/ForMathlib/Computability/TuringMachine/PostTuringMachine.lean [hunk 1]
```diff
@@ -0,0 +1,83 @@
...
+See the License for the specific language governing permissions and
+limitations under the License.
+-/
+
+import Mathlib.Computability.PostTuringMachine
+import Mathlib.Logic.Relation
+
+open Turing
+
+lemma dom_of_apply_eq_none  {σ : Type*} {f : σ → Option σ} {s : σ} (hf : f s = none) :
```
Comment (smmercuri) [inline FormalConjectures/ForMathlib/Computability/TuringMachine/PostTuringMachine.lean:35]: Should this have a namespace?

**Comment by smmercuri** [comment]
Could you please add a short description of the PR's goals in the description area? It would help with review for this one in particular. I'm also wondering why the `fix` tag is used, are there particular formalisation errors that are targeted here?

File: FormalConjectures/ForMathlib/Computability/TuringMachine/BusyBeavers.lean [hunk 2]
```diff
@@ -96,66 +95,120 @@ variable [Inhabited Γ]
...
+        obtain ⟨a, ha⟩ := hn
+        by_contra! hc
+        rw [HaltsAfter] at hk
+        have : k + 1 ≤ n := by
+          rw [Nat.succ_le]
+          convert hc
+          simpa [PartENat.some_eq_natCast] using H
+        simp [multiStep_eq_none_of_le_of_multiStep_eq_none (M := M) this hk] at ha
+      intro H
+      exact H
```
Comment (smmercuri) [inline FormalConjectures/ForMathlib/Computability/TuringMachine/BusyBeavers.lean]: A golf attempt
```suggestion
theorem haltingNumber_def (n : ℕ) (hn : ∃ a, M.multiStep (init []) n = some a)
    (ha' : M.multiStep (init []) (n + 1) = none) :
    M.haltingNumber = n := by
  refine IsGLB.sInf_eq (IsLeast.isGLB ⟨⟨n, by rwa [HaltsAfter], rfl⟩, fun m ⟨k, _, _⟩ ↦ ?_⟩)
  induction m using PartENat.casesOn 
  · exact le_top
  · refine ⟨fun h ↦ h, fun _ ↦ ?_⟩ 
    by_contra! hc
    simp_all [multiStep_eq_none_of_le_of_multiStep_eq_none (show k + 1 ≤ n by aesop) ‹_›]
```

File: FormalConjectures/ForMathlib/Computability/TuringMachine/PostTuringMachine.lean [hunk 3]
```diff
@@ -0,0 +1,83 @@
...
+theorem Turing.eval_eq_eval {σ : Type*} {f : σ → Option σ} {a a' : σ} (H : f a = some a'):
+    Turing.eval f a = Turing.eval f a' := by
+  apply reaches_eval
+  rw [Turing.Reaches]
+  apply Relation.ReflTransGen.single
+  rw [H]
+  rfl
+
+-- TODO(lezeau): this should be generalized to `PFun.fix`
+theorem eval_dom_iff {σ : Type*} {f : σ → Option σ} {s : σ} :
```
Comment (smmercuri) [inline FormalConjectures/ForMathlib/Computability/TuringMachine/PostTuringMachine.lean:64]: Ditto the namespace comment above

File: FormalConjectures/ForMathlib/Test/Computability/TuringMachine.lean [hunk 4]
```diff
@@ -42,15 +42,25 @@ match l with
...
-instance : haltsAfterOne.IsHalting  where
-  halts := by
-    sorry
+instance : alwaysHaltingMachine.IsHalting := by
+  rw [isHalting_iff_exists_haltsAt]
+  -- halts after zero steps
+  use 0
+  rw [HaltsAfter, multiStep]
+  simp
+  simp_rw [step, alwaysHaltingMachine, Option.map_none', init]
```
Comment (smmercuri) [inline FormalConjectures/ForMathlib/Test/Computability/TuringMachine.lean]:
```suggestion
  rw [isHalting_iff_exists_haltsAt]
  -- halts after zero steps
  exact ⟨0, by aesop⟩ 
```

File: FormalConjectures/ForMathlib/Test/Computability/TuringMachine.lean [hunk 5]
```diff
@@ -42,15 +42,25 @@ match l with
...
+
+instance : haltsAfterOne.IsHalting := by
+  rw [isHalting_iff_exists_haltsAt]
+  -- halts after one step
+  use 1
+  unfold HaltsAfter
+  simp_rw [multiStep, Function.iterate_succ', Function.comp_apply, Function.iterate_zero, init,
+    Option.bind]
+  aesop
```
Comment (smmercuri) [inline FormalConjectures/ForMathlib/Test/Computability/TuringMachine.lean]: `aesop` works even earlier
```suggestion
  -- halts after one step
  exact ⟨1, by aesop⟩ 
```

File: FormalConjectures/ForMathlib/Computability/TuringMachine/PostTuringMachine.lean (hunk 1 above)
Comment (Paul-Lez) [reply FormalConjectures/ForMathlib/Computability/TuringMachine/PostTuringMachine.lean:35]: Done

**Review by smmercuri — APPROVED** [review]
